US09416138B2
N-[(1S)-1-(4-Bromophenyl)-2,2,2-trifluoro-ethyl]methanesulfonamide
Add methanesulfonyl chloride (16.42 mL, 0.21 mol) drop-wise to a mixture of (1S)-1-(4-bromophenyl)-2,2,2-trifluoroethanamine (49 g, 0.19 mol), 4-dimethylaminopyridine (1.18 g, 9.0 mmol), 2,6-lutidine (67 mL, 0.57 mol) in DCM (250 mL) at 0° C. Warm the mixture to ambient temperature and stir the mixture at that temperature for 20 h. Dilute the reaction mixture with DCM (300 mL) and wash it sequentially with aqueous HCl (2 M, 2×200 mL), water (250 mL), then brine (250 mL). Collect the organic phase; dry over MgSO4; filter; and concentrate the filtrate under reduced pressure. Triturate the residue with hexane (200 mL) for 10 minutes; filter; and dry the solid under reduced pressure to provide the title compound as a pale brown solid (60 g, 93% yield, 98% ee). MS (m/z): 332 (M+1).

reactant | methanesulfonyl chloride | 0.21 mol, 16.42 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | (1S)-1-(4-bromophenyl)-2,2,2-trifluoroethanamine | 0.19 mol, 49 g | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N | C8H7BrF3N
reactant | 2,6-lutidine | 0.57 mol, 67 mL | N1=C(C=CC=C1C)C | C7H9N
catalyst | 4-dimethylaminopyridine | 9.0 mmol, 1.18 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | N-[(1S)-1-(4-Bromophenyl)-2,2,2-trifluoro-ethyl]methanesulfonamide | 60 g, 93% yield | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)NS(=O)(=O)C | C9H9BrF3NO2S
